US06603005B2
5.73 cm3 of thionyl chloride were added dropwise to a suspension of 0.6 g of ethyl 4-[3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-(2-hydroxyethyl)piperidine-4-carboxylate in 10 cm3 of dichloromethane with stirring in the region of 20° C., and the mixture was stirred for 24 hours at a temperature in the region of 20° C. The reaction mixture was concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. The residue was taken up in 3 times 30 cm3 of cyclohexane and evaporated to dryness as under the above conditions. 0.67 g of ethyl 1-(2-chloroethyl)-4-[3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]piperidine-4-carboxylate dihydrochloride was obtained in the form of a beige-colored solid.

reactant | thionyl chloride | 5.73 cm3 | S(=O)(Cl)Cl | Cl2OS
reactant | ethyl 4-[3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-(2-hydroxyethyl)piperidine-4-carboxylate | 0.6 g | FC=1C=NC2=CC=C(C=C2C1CCCC1(CCN(CC1)CCO)C(=O)OCC)OC | C23H31FN2O4
solvent | dichloromethane | 10 cm3 | ClCCl | CH2Cl2
product | ethyl 1-(2-chloroethyl)-4-[3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]piperidine-4-carboxylate dihydrochloride | 0.67 g | Cl.Cl.ClCCN1CCC(CC1)(C(=O)OCC)CCCC1=C(C=NC2=CC=C(C=C12)OC)F | InChI=1S/C23H30ClFN2O3.2ClH/c1-3-30-22(28)23(9-12-27(13-10-23)14-11-24)8-4-5-18-19-15-17(29-2)6-7-21(19)26-16-20(18)25;;/h6-7,15-16H,3-5,8-14H2,1-2H3;2*1H
